US03991201
A mixture of 18 parts of 1H-imidazole, 18 parts of 2,4-dichloro-β-cyclopentylbenzeneethanol methanesulfonate and 225 parts of N,N-dimethylformamide is stirred and refluxed overnight. The reaction mixture is cooled and poured onto water. The product is extracted three times with trichloromethane. The combined extracts are washed three times with water and stirred with silicagel. The latter is filtered off and the filtrate is evaporated. The residue is crystallized from petroleumether. The product is filtered off and recrystallized from a mixture of 2,2'-oxybispropane and petroleum-ether, yielding 6.8 parts of 1-[2-cyclopentyl-2-(2,4-dichlorophenyl)-ethyl]-1H-imidazole; mp. 97.6° C.

reactant | 1H-imidazole | N1C=NC=C1 | C3H4N2
reactant | 2,4-dichloro-β-cyclopentylbenzeneethanol methanesulfonate | CS(=O)(=O)OCC(C1=C(C=C(C=C1)Cl)Cl)C1CCCC1 | C14H18Cl2O3S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[2-cyclopentyl-2-(2,4-dichlorophenyl)-ethyl]-1H-imidazole | C1(CCCC1)C(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | C16H18Cl2N2
